US08420629B2
Step 2. tert-butyl 3-[fluoro(phenylsulfonyl)methyl]-3-[4-(7-{[2-(trimethylsilyl)ethoxy]methyl}-7H-pyrrolo[2,3-d]pyrimidin-4-yl)-1H-pyrazol-1-yl]azetidine-1-carboxylate
A mixture of 4-(1H-pyrazol-4-yl)-7-{[2-(trimethylsilyl)ethoxy]methyl}-7H-pyrrolo[2,3-d]pyrimidine (0.40 g, 1.3 mmol), tert-butyl 3-[fluoro(phenylsulfonyl)methylene]azetidine-1-carboxylate (0.56 g, 1.7 mmol), and 1,8-diazabicyclo[5.4.0]undec-7-ene (0.182 mL, 1.22 mmol) in acetonitrile (6 mL, 100 mmol) was stirred at rt for 3 h. After evaporation to dryness, the residue was purified on silica gel, eluting with 0 to 100% EtOAc in hexane, to give the desired product (820 mg, 100%). LCMS calculated for C30H40FN6O5SSi (M+H)+: m/z=643.3. Found: 643.4. 1H NMR (CDCl3, 300 MHz) δ 8.92 (1H, s), 8.55 (1H, s), 8.32 (1H, s), 7.87 (2H, m), 7.68 (1H, m), 7.55 (2H, m), 7.47 (1H, d, J=3.6 Hz), 6.84 (1H, d, J=3.6 Hz), 5.77 (1H, d, J=45.6 Hz), 5.74 (2H, s), 4.93 (1H, d, J=10.2 Hz), 4.73˜4.58 (3H, m), 3.60 (2H, t, J=8.1 Hz), 1.51 (9H, s), 0.98 (3H, t, J=8.1 Hz), 0.07 (9H, s) ppm. 19F NMR (CDCl3, 300 MHz) δ-181.84 (1F, d, J=48.6 Hz) ppm.

reactant | 4-(1H-pyrazol-4-yl)-7-{[2-(trimethylsilyl)ethoxy]methyl}-7H-pyrrolo[2,3-d]pyrimidine | 1.3 mmol, 0.40 g | N1N=CC(=C1)C=1C2=C(N=CN1)N(C=C2)COCC[Si](C)(C)C | C15H21N5OSi
reactant | tert-butyl 3-[fluoro(phenylsulfonyl)methylene]azetidine-1-carboxylate | 1.7 mmol, 0.56 g | FC(S(=O)(=O)C1=CC=CC=C1)=C1CN(C1)C(=O)OC(C)(C)C | C15H18FNO4S
reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 1.22 mmol, 0.182 mL | N12CCCCCC2=NCCC1 | C9H16N2
reactant | acetonitrile | 100 mmol, 6 mL | C(C)#N | C2H3N
product | tert-butyl 3-[fluoro(phenylsulfonyl)methyl]-3-[4-(7-{[2-(trimethylsilyl)ethoxy]methyl}-7H-pyrrolo[2,3-d]pyrimidin-4-yl)-1H-pyrazol-1-yl]azetidine-1-carboxylate | 820 mg, 100% | FC(C1(CN(C1)C(=O)OC(C)(C)C)N1N=CC(=C1)C=1C2=C(N=CN1)N(C=C2)COCC[Si](C)(C)C)S(=O)(=O)C2=CC=CC=C2 | C30H39FN6O5SSi
